US07989438B2
Step 4: methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate
Methyl-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in International patent application WO2004/087714 from commercially available methyl indole-6-carboxylate) and (4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid (1.1 eq) were dissolved in dioxane (0.125M solution) and 2M aq. Na2CO3 solution (3.3 eq) was added. The mixture was degassed and flushed with argon. Then Pd(PPh3)2Cl2 (0.1 eq) was added and the mixture was heated under argon atmosphere to 110° C. After 5 h at this temperature all volatiles were evaporated in vacuo and the residual material was dissolved in EtOAc. The solution was extracted with water and with brine, then dried over Na2SO4 and evaporated in vacuo. The residual material was purified by FC (PE:EtOAc, 9:1). After evaporation of the solvents the product was obtained as an off-white foam (81%). The material was used without further characterization in the next reaction.

reactant | Methyl-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | COC(=O)C1=CC=C2C(=C(NC2=C1)Br)C1CCCCC1 | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | (4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid | 1.1 eq | COC1=CC(=C(C=C1)B(O)O)CO[Si](C(C)C)(C(C)C)C(C)C | C17H31BO4Si
reactant | Na2CO3 | 2M, 3.3 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 0.125M | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-cyclohexyl-2-(4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)-1H-indole-6-carboxylate | 81% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OC)CO[Si](C(C)C)(C(C)C)C(C)C | C33H47NO4Si
